US04713381
A mixture of 5.4 g of 3-bromoacetyl-2-methylimidazo[1,2-a]pyrimidine hydrobromide, 3 g of ethyl thiocarbazate and 100 ml of acetonitrile is stirred under reflux for 4 hours. After cooling, crystals are collected by filtration and recrystallized from methanol twice to give 2 g of 5-(2-methylimidazo[1,2-a]pyrimidin-3-yl)-3,6-dihydro-1,3,4-thiadiazin-2 -one hydrobromide as pale yellow crystals, melting at 285°-288° C. with decomposition.

reactant | 3-bromoacetyl-2-methylimidazo[1,2-a]pyrimidine hydrobromide | 5.4 g | Br.BrCC(=O)C1=C(N=C2N1C=CC=N2)C
reactant | ethyl thiocarbazate | 3 g | C(NN)(=S)OCC | C3H8N2OS
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 5-(2-methylimidazo[1,2-a]pyrimidin-3-yl)-3,6-dihydro-1,3,4-thiadiazin-2 -one hydrobromide | 2 g | Br.CC=1N=C2N(C=CC=N2)C1C1=NNC(SC1)=O | InChI=1S/C10H9N5OS.BrH/c1-6-8(7-5-17-10(16)14-13-7)15-4-2-3-11-9(15)12-6;/h2-4H,5H2,1H3,(H,14,16);1H
